US07812183B2
3-Hydroxy-2,2-dimethyl-4-[4-(4-nitro-phenyl)-piperazin-1-yl]-chroman-6-carbonitrile (Compound #51)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 1-(4-nitro-phenyl)-piperazine as starting material, the title compound was prepared as a white solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 1-(4-nitro-phenyl)-piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
product | 3-Hydroxy-2,2-dimethyl-4-[4-(4-nitro-phenyl)-piperazin-1-yl]-chroman-6-carbonitrile | OC1C(OC2=CC=C(C=C2C1N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C#N)(C)C | C22H24N4O4
